US05929085
(d) 1,3,4,6,11,11a-Hexahydro-2H-benzo[b]quinolizin-8-amine hydrochloride
8-Nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizine hydrochloride (2.93 g, 10.9 mmol) was dissolved in ethanol (150 ml) and 10% palladium-on-carbon (0.4 g) was added and the solution was shaken on a Parr Hydrogenator for 2 h. The catalyst was filtered off and the catalyst was washed with water. The filtrate was concentrated and absolute ethanol was added and evaporated to drive off excess water. The resulting solid was taken up in hot ethanol (75 ml) and ether (100 ml) was added slowly. The precipitate which formed was collected and dried in the air to give the title compound as an off-white solid (2.48 g, 95%), m.p. 241-3° C. (dec.).

reactant | 8-Nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizine hydrochloride | 10.9 mmol, 2.93 g | Cl.[N+](=O)([O-])C1=CC2=C(CC3CCCCN3C2)C=C1
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.4 g | [Pd] | Pd
product | 1,3,4,6,11,11a-Hexahydro-2H-benzo[b]quinolizin-8-amine hydrochloride | 2.48 g, 95% | Cl.C1CCCN2CC3=C(CC12)C=CC(=C3)N | InChI=1S/C13H18N2.ClH/c14-12-5-4-10-8-13-3-1-2-6-15(13)9-11(10)7-12;/h4-5,7,13H,1-3,6,8-9,14H2;1H
